US04308273
Preparation of 5,6,7,8-tetrahydro-6-allyl-1,6-naphtyridine (Compound No. 12)
A solution of 1,6-naphthyridine (6.5 g, 0.05 mol) and allyl bromide (9.1 g, 0.075 mol) in acetone (50 ml) was refluxed for 8 hours. The precipitated quatenary salt was separated by filtration, dissolved in technical grade methanol (300 ml) and sodium borohydride (18.9 g, 0.5 mol) was added portionwise under ice cooling. After stirring overnight at room temperature, the reaction mixture was evaporated in vacuo, water added and extracted with benzene. The benzene layer was dried over anhydrous potassium carbonate and evaporated in vacuo. The residue was purified by alumina column chromatography (eluted successively with n-hexane and benzene-chloroform (3:1)) and distilled, bp 98° C./1.0 mmHg, to afford the Compound No. 12 (5.70 g, 65.5%) as a colorless oil.

reactant | 1,6-naphthyridine | 0.05 mol, 6.5 g | N1=CC=CC2=CN=CC=C12 | C8H6N2
reactant | allyl bromide | 0.075 mol, 9.1 g | C(C=C)Br | C3H5Br
reactant | sodium borohydride | 0.5 mol, 18.9 g | [BH4-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | methanol | 300 ml | CO | CH4O
product | 5,6,7,8-tetrahydro-6-allyl-1,6-naphtyridine | C(C=C)N1CC=2C=CC=NC2CC1 | C11H14N2
